US05326780
To a solution of 980 mg of 5-benzyl-4-isopropyl-2-methylimidazole (4.58 mmol) in 9.8 ml of dry dimethylformamide is added 238 mg of 60% oil suspension of sodium hydride (5.95 mmol) under ice cooling. Ten minutes later, 935 mg of benzyloxymethyl chloride (5.97 mmol) is dropwise added. One hour later, the reaction mixture is poured onto ice water and extracted with ethyl acetate. The extract is washed with saturated brine, dried over sodium sulfate, filtered and the liltrate is concentrated in vacuo. The crude product is chromatographed on a column of silica gel, eluting with ethyl acetate and n-hexane (1:1) to give 820 mg of the objective 5-benzyl-1-benzyloxymethyl-4-isopropyl-2-methylimidazole (I-42). Yield, 54.17%.

reactant | 5-benzyl-4-isopropyl-2-methylimidazole | 4.58 mmol, 980 mg | C(C1=CC=CC=C1)C1=C(N=C(N1)C)C(C)C | C14H18N2
reactant | sodium hydride | 5.95 mmol | [H-].[Na+]
reactant | benzyloxymethyl chloride | 5.97 mmol, 935 mg | C(C1=CC=CC=C1)OCCl | C8H9ClO
solvent | dimethylformamide | 9.8 ml | CN(C=O)C | C3H7NO
product | 5-benzyl-1-benzyloxymethyl-4-isopropyl-2-methylimidazole | 820 mg | C(C1=CC=CC=C1)C1=C(N=C(N1COCC1=CC=CC=C1)C)C(C)C | C22H26N2O
